US09102692B2
2-[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(toluene-4-sulfonyl)-1H-indole-6-carbaldehyde (29 mg, 0.054 mmol), 1-methylpiperazine (7 μl, 0.066 mmol), and sodium triacetoxyborohydride (17 mg, 0.083 mmol) were dissolved in anhydrous dichloromethane (0.5 ml) and stirred at room temperature under a nitrogen atmosphere for 14 hours. A saturated aqueous solution of sodium bicarbonate was added to the reaction mixture. Then, the mixture was extracted with ethyl acetate. The organic layer was isolated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane/methanol=100/15) to give [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-(4-methyl-piperazin-1-ylmethyl)-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone as a yellow solid (29 mg, 86%).

reactant | 2-[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(toluene-4-sulfonyl)-1H-indole-6-carbaldehyde | 0.054 mmol, 29 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)C=O)S(=O)(=O)C1=CC=C(C=C1)C | C28H22N6O4S
reactant | 1-methylpiperazine | 0.066 mmol, 7 μl | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 0.083 mmol, 17 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-(4-methyl-piperazin-1-ylmethyl)-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 29 mg, 86% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)CN1CCN(CC1)C)S(=O)(=O)C1=CC=C(C=C1)C | C33H34N8O3S
